Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Mrs. ___ is a ___ with history of colon polyps who underwent 
screening colonoscopy on ___ found to have 2 cecal sessile 
adenoma (Cecal ___ s/p polypectomy/endoclip and Cecal 
___ s/p mucosal resection/endoclip) who presents with 1 
day of abdominal cramping and BRBPR.  Patient reports having 5+ 
maroon colored/bloody stools from 2am-6am however her last BM at 
6:30am was normal without any blood. She is not on any blood 
thinner. No nausea, vomiting, hematamesis, melena, 
lightheadedness, syncope.  No shortness of breath or chest pain. 
 No fevers, chills or night sweats. 

In the ED, initial vitals: 97 126/75 18 98% ra.  She did have 
one BP of 92/70 which returned back to normal after 5 minutes 
without intervention. Labs notable for: Hgb/HCT 11.5/33.2 down 
from 12.7/38.4 in ___.  Normal chem 10; normal LFTs, normal 
lactate. GI consult was called who felt that patient has late 
polypectomy bleed and recommended initiating GoLytely prep for 
colonoscopy in ___.  GI recommended admission to ___ 
___ floor however ED felt patient needed ICU level 
care for monitoring. Patient received 1L NS in the ED prior to 
___ transfer. 

On arrival to the ___, patient appears well without any 
complaints.  

 
Past Medical History:
- Sessile Cecal Adenoma ___ s/p polypectomy and mucosal resection 
as well as endoclip
- Hx of Hemorrhoids
- Peripheral Neuropathy
- Bilateral hallux valgus deformities
- Bilateral second hammertoe deformities
 

 
Social History:
___
Family History:
Mother had uterine cancer and prostate cancer. Her father had 
aunt with breast cancer.  The patient is divorced, two children 
and two grandchildren son boys ___ and ___ months.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No rashes 
NEURO:  alert and oriented x3

DISCHARGE PHYSICAL EXAM:
========================
Vitals:98.4 BP: 120/82 HR: 80 R: 16 O2: 98% RA
GENERAL: NAD, well appearing
HEENT: Sclera anicteric, MMM, oropharynx clear  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs,
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding
EXT: Warm, well perfused, no clubbing, cyanosis or edema  
SKIN: No rashes  
NEURO: alert and oriented x3  
psych: calm, cooperative
 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:45AM BLOOD WBC-5.8 RBC-3.87* Hgb-11.5* Hct-33.2* 
MCV-86 MCH-29.7 MCHC-34.5 RDW-14.5 Plt ___
___ 07:45AM BLOOD Neuts-64.2 ___ Monos-4.9 Eos-2.4 
Baso-0.8
___ 08:52AM BLOOD ___ PTT-26.8 ___
___ 07:45AM BLOOD Glucose-124* UreaN-25* Creat-0.8 Na-138 
K-4.4 Cl-104 HCO3-25 AnGap-13
___ 07:45AM BLOOD ALT-16 AST-26 AlkPhos-65 TotBili-0.6
___ 07:45AM BLOOD Albumin-4.3
___ 08:43AM BLOOD Lactate-1.8

DISCHARGE LABS:
===============

___ 06:55AM BLOOD WBC-4.4 RBC-3.49* Hgb-10.3* Hct-29.4* 
MCV-84 MCH-29.7 MCHC-35.1* RDW-13.8 Plt ___
___ 06:55AM BLOOD Glucose-99 UreaN-12 Creat-0.8 Na-137 
K-4.4 Cl-104 HCO3-29 AnGap-___ with history of colon polyps who underwent screening 
colonoscopy on ___ found to have 2 cecal sessile adenoma 
(Cecal ___ s/p polypectomy/endoclip and Cecal ___ 
s/p mucosal resection/endoclip) who presented with 1 day of 
maroon colored stools.

# Postpolypectomy bleeding:
Most likely late post polypectomy especially since patient had 
mucosal resection of one sessile cecal polyp.  Patient had an 
endoclip placed during procedure which likely prevented early 
bleeding. No AVMs, diverticulosis or internal hemorrhoids on 
recent colonoscopy.  Patient was hemodynamically stable on 
admission with HCT of 33.6. Last maroon colored stool was the 
morning of admission without further BMs in 5 hours.  Very low 
suspicion for upper GI bleed given hemodynamic instability 
without any melena. Mainatined active type and cross with 2 PIVs 
in place. No PPI given given very low suspicion for upper GI 
bleed. Hemoglobin trended and remained stable. Advanced from 
clear liquid and then to regular without recurrence of bleed. 
The patient was discharged home.

# Peripheral Neuropathy: continued gabapentin and PRN tylenol

Transitional issues:
- recommend repeat CBC at PCP follow up
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post- polypectomy bleeding
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with bleeding following 
your colonoscopy. You were monitored for continued bleeding and 
your blood counts were stable. You have likely stopped bleeding 
on your own.
Please follow up with your PCP as scheduled for a repeat CBC 
(blood count).
 
Followup Instructions:
___